US04576749
(A) 1-(t-Butyloxycarbonyl)-D-proline
A solution of D-proline (0.8 g, 6.94 mmole) in 50 ml of 1:1 acetone:water was treated with triethylamine (1.05 g, 10.4 mmole) and then 1,1-dimethylethoxycarboxylic anhydride (1.77 g, 8.1 mmole). After stirring at 25° C. overnight, most of the acetone was removed in vacuo, 1 g of solid sodium bicarbonate was added and the mixture was extracted two times with ethyl acetate. The aqueous layer was acidified with 10% potassium bisulfate and extracted with ethyl acetate, the organics were dried (sodium sulfate) and evaporated to give 1.6 g of a thick oil which solidified on standing.

reactant | D-proline | 6.94 mmole, 0.8 g | N1[C@@H](C(=O)O)CCC1 | C5H9NO2
reactant | water | O | H2O
reactant | triethylamine | 10.4 mmole, 1.05 g | C(C)N(CC)CC | C6H15N
reactant | 1,1-dimethylethoxycarboxylic anhydride | 8.1 mmole, 1.77 g | CC(C)(OC(=O)OC(=O)OC(C)(C)C)C | C10H18O5
solvent | acetone | 50 ml | CC(=O)C | C3H6O
product | 1-(t-Butyloxycarbonyl)-D-proline | 1.6 g | C(C)(C)(C)OC(=O)N1[C@@H](C(=O)O)CCC1 | C10H17NO4
